US05631401
4-(3.4-Methylenedioxyphenoxy) benzaldehyde
A solution of 3,4-methylenedioxyphenol (7.0 g, 50.7 mmol) in anhydrous DMSO (20 mL) was added dropwise over 30 minutes to a stirred suspension of 60% oil dispersion sodium hydride (2.02 g, 50 mmol) in anhydrous DMSO (40 mL) under a nitrogen atmosphere. Upon completion of addition, a solution of p-fluorobenzaldehyde (6.2 g, 50 mmol) in DMSO (10 mL) was added, and the temperature was slowly raised to 150° C. The reaction mixture was maintained at 130°-160° C. for one hour and then allowed to cool to ambient temperature. After 12 hours at ambient temperature, the reaction mixture was poured onto crushed ice and water, made slightly acidic with concentrated hydrochloric acid and extracted with ether. The combined organic extracts were washed with successively with cold dilute aqueous sodium hydroxide, cold dilute hydrochloric acid, ice-cold water and saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and evaporated to give a red liquid which solidified. The solid was triturated with boiling n-pentane, filtered and washed with boiling pentane to give 8.2 g (67%) of the title compound. m.p. 67°-70° C. 1H NMR (CDCl3, 300MHz) δ 6.0 (s, 2H), S.6 (m, 2H), 6.8 (d, 1H), 7.04 (m, 2H), 7.84 (m, 2H), 9.92 (s, 1H). MS (DCl/NH3) m/e 243 (M+H)+.

reactant | 3,4-methylenedioxyphenol | 50.7 mmol, 7.0 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | sodium hydride | 50 mmol, 2.02 g | [H-].[Na+]
reactant | p-fluorobenzaldehyde | 50 mmol, 6.2 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3.4-Methylenedioxyphenoxy) benzaldehyde | 8.2 g, 67% | C1OC=2C=C(OC3=CC=C(C=O)C=C3)C=CC2O1 | C14H10O4
